// Generated for: spectre
// Generated on: May  7 02:59:18 2025
// Design library name: EE_140_240A_Final_Project
// Design cell name: Final-BGR
// Design view name: schematic
simulator lang=spectre
global 0
parameters TRISE_BAT=100n VBAT=3.2
include "/home/cc/ee140/sp25/class/ee140-aax/cadence_finalproj/sky130_release_0.0.4/libs/sky130_fd_pr_main/../../models/sky130.lib.spice" section=tt

// Library name: EE_140_240A_Final_Project
// Cell name: Final_5OTA_LDO
// View name: schematic
subckt Final_5OTA_LDO VDD VSS Vin\+ Vin\- Vout
    NM1 (net7 VBNR VSS VSS) nfet_01v8 w=(2.5u) l=1.4u as=662.5f ad=662.5f \
        ps=5.53u pd=5.53u m=(1)*(1)
    NM5 (VBNR VBNR VSS VSS) nfet_g5v0d10v5 w=(5u) l=500n as=1.325p \
        ad=1.325p ps=10.53u pd=10.53u m=(1)*(1)
    NM3 (VBP VBNR VSS VSS) nfet_g5v0d10v5 w=(5u) l=500n as=1.325p \
        ad=1.325p ps=10.53u pd=10.53u m=(1)*(1)
    NM2 (Vout Vin\- net7 net7) nfet_g5v0d10v5 w=(750n) l=1.4u as=198.75f \
        ad=198.75f ps=2.03u pd=2.03u m=(1)*(1)
    NM0 (net4 Vin\+ net7 net7) nfet_g5v0d10v5 w=(750n) l=1.4u as=198.75f \
        ad=198.75f ps=2.03u pd=2.03u m=(1)*(1)
    PM3 (VBNR VBP net1 net1) pfet_g5v0d10v5 w=(25u) l=500n as=6.625p \
        ad=6.625p ps=50.53u pd=50.53u m=(1)*(1)
    PM2 (VBP VBP VDD VDD) pfet_g5v0d10v5 w=(5u) l=500n as=1.325p ad=1.325p \
        ps=10.53u pd=10.53u m=(1)*(1)
    PM1 (Vout net4 VDD VDD) pfet_g5v0d10v5 w=(2.3u) l=1.4u as=609.5f \
        ad=609.5f ps=5.13u pd=5.13u m=(1)*(1)
    PM0 (net4 net4 VDD VDD) pfet_g5v0d10v5 w=(2.3u) l=1.4u as=609.5f \
        ad=609.5f ps=5.13u pd=5.13u m=(1)*(1)
    R0 (VDD net1) resistor r=20K
ends Final_5OTA_LDO
// End of subcircuit definition.

// Library name: EE_140_240A_Final_Project
// Cell name: Final-BGR
// View name: schematic
R15 (VDD net2) resistor r=2
R5 (VPTAT net5) resistor r=12.15K
R2 (V\+ net9) resistor r=12.15k
R1 (VBG V\+) resistor r=18526.32
R0 (VDD net3) resistor r=20K
NM16 (net9 net9 VSS VSS) nfet_g5v0d10v5 w=(5u) l=500n as=1.325p ad=1.325p \
        ps=10.53u pd=10.53u m=(10)*(1)
NM15 (V\- V\- VSS VSS) nfet_g5v0d10v5 w=(5u) l=500n as=1.325p ad=1.325p \
        ps=10.53u pd=10.53u m=(1)*(1)
NM14 (net1 VBP VSS VSS) nfet_g5v0d10v5 w=(750n) l=500n as=198.75f \
        ad=198.75f ps=2.03u pd=2.03u m=(1)*(1)
NM7 (net6 VBNR VSS VSS) nfet_g5v0d10v5 w=(5u) l=500n as=1.325p ad=1.325p \
        ps=10.53u pd=10.53u m=(1)*(1)
NM3 (Vout V\- net6 net6) nfet_g5v0d10v5 w=(5u) l=500n as=1.325p ad=1.325p \
        ps=10.53u pd=10.53u m=(1)*(1)
NM4 (net4 V\+ net6 net6) nfet_g5v0d10v5 w=(5u) l=500n as=1.325p ad=1.325p \
        ps=10.53u pd=10.53u m=(1)*(1)
NM5 (VBNR VBNR VSS VSS) nfet_g5v0d10v5 w=(5u) l=500n as=1.325p ad=1.325p \
        ps=10.53u pd=10.53u m=(1)*(1)
NM0 (VBP VBNR VSS VSS) nfet_g5v0d10v5 w=(5u) l=500n as=1.325p ad=1.325p \
        ps=10.53u pd=10.53u m=(1)*(1)
I18 (net17 net18 net15 net14 net16) Final_5OTA_LDO
V1 (net2 0) vsource type=pulse edgetype=halfsine val0=0 val1=VBAT \
        rise=TRISE_BAT
V0 (VSS 0) vsource type=dc
PM10 (VBNR net1 VDD VDD) pfet_g5v0d10v5 w=(750n) l=500n as=198.75f \
        ad=198.75f ps=2.03u pd=2.03u m=(1)*(1)
PM9 (net1 VBP VDD VDD) pfet_g5v0d10v5 w=(750n) l=500n as=198.75f \
        ad=198.75f ps=2.03u pd=2.03u m=(1)*(1)
PM2 (net4 net4 VDD VDD) pfet_g5v0d10v5 w=(5u) l=500n as=1.325p ad=1.325p \
        ps=10.53u pd=10.53u m=(1)*(1)
PM6 (VPTAT net8 net7 net7) pfet_g5v0d10v5 w=(5u) l=500n as=1.325p \
        ad=1.325p ps=10.53u pd=10.53u m=(1)*(1)
PM3 (Vout net4 VDD VDD) pfet_g5v0d10v5 w=(5u) l=500n as=1.325p ad=1.325p \
        ps=10.53u pd=10.53u m=(1)*(1)
PM4 (V\- Vout VDD VDD) pfet_g5v0d10v5 w=(1u) l=500n as=265f ad=265f \
        ps=2.53u pd=2.53u m=(1)*(1)
PM5 (VBG Vout VDD VDD) pfet_g5v0d10v5 w=(1u) l=500n as=265f ad=265f \
        ps=2.53u pd=2.53u m=(1)*(1)
PM1 (VBNR VBP net3 net3) pfet_g5v0d10v5 w=(20u) l=500n as=5.3p ad=5.3p \
        ps=40.53u pd=40.53u m=(1)*(1)
PM0 (VBP VBP VDD VDD) pfet_g5v0d10v5 w=(5u) l=500n as=1.325p ad=1.325p \
        ps=10.53u pd=10.53u m=(1)*(1)
simulatorOptions options psfversion="1.4.0" reltol=100e-6 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 homotopy=all limit=delta scalem=1.0 \
    scale=1.0 compatible=spice2 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=20u errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
